US06075021
6-Fluoro-N,N,9-trimethyl-1-oxo-2-(phenylmethyl)-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxamide
A solution of 2 g (5 mmol) of (±)-6-fluoro-N,N,9-trimethyl-1-oxo-2-(phenylmethyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxamide and of 1.6 g (7 mmol) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone in 250 ml of dichloromethane is stirred for 1 h. The organic phase is washed and dried over sodium sulphate. The solvent is evaporated under reduced pressure and the residue is purified by chromatography on a column of silica gel, elution being carried out with a mixture of dichloromethane and ethyl acetate. The product is crystallized from diethyl ether. 1 g (2.6 mmol) of product is obtained.

reactant | (±)-6-fluoro-N,N,9-trimethyl-1-oxo-2-(phenylmethyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-4-carboxamide | 5 mmol, 2 g | FC=1C=C2C3=C(N(C2=CC1)C)C(N(CC3C(=O)N(C)C)CC3=CC=CC=C3)=O | C22H22FN3O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 7 mmol, 1.6 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 6-Fluoro-N,N,9-trimethyl-1-oxo-2-(phenylmethyl)-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxamide | 2.6 mmol, 1 g | FC=1C=C2C3=C(N(C2=CC1)C)C(N(C=C3C(=O)N(C)C)CC3=CC=CC=C3)=O | C22H20FN3O2
